US04927939
4-Methyl-5-[4-(Methylsulfinyl)benzoyl]-2(3H)Thiazolone
Hydrogen peroxide (1 equivalent, 30%) is added to a solution of 4-methyl-5-[4-(methylthio)benzoyl]-2(3H)-thiazolone (2.7 g) in glacial acetic acid (80 ml). The mixture is stirred for 3 hours at 50° C. The precipitate obtained on addition of water is recrystallized from ethanol to give the title compound.

reactant | Hydrogen peroxide | 1 equivalent | OO | H2O2
reactant | 4-methyl-5-[4-(methylthio)benzoyl]-2(3H)-thiazolone | 2.7 g | CC=1NC(SC1C(C1=CC=C(C=C1)SC)=O)=O | C12H11NO2S2
reactant | water | O | H2O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4-Methyl-5-[4-(Methylsulfinyl)benzoyl]-2(3H)Thiazolone | CC=1NC(SC1C(C1=CC=C(C=C1)S(=O)C)=O)=O | C12H11NO3S2
